US07226923B2
3-Isopropyl-1-(5-methyl-1H-pyrazol-3-ylamino)-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid methyl ester
1-[tert-Butoxycarbonyl-(1-tert-butoxycarbonyl-5-methyl-1H-pyrazol-3-yl)-amino]-3-isopropyl-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid (10 mg, 0.019 mmol) (Intermediate of Example M-1) was dissolved in dichloromethane (DCM) (1 ml). To this was added K2CO3 (3.1 mg, 0.028 mmol) followed by methyl iodide (3.3 mg, 0.028 mmol) and the reaction mixture was stirred at room temperature for 30 minutes. After this time the reaction mixture was partitioned between ethyl acetate (10 ml) and water (10 ml). The organic layer was separated, dried (MgSO4), filtered and concentrated under vacuum.

reactant | 1-[tert-Butoxycarbonyl-(1-tert-butoxycarbonyl-5-methyl-1H-pyrazol-3-yl)-amino]-3-isopropyl-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid | 0.019 mmol, 10 mg | C(C)(C)(C)OC(=O)N(C1=NN(C(C2=CC(=CC=C12)C(=O)O)=O)C(C)C)C1=NN(C(=C1)C)C(=O)OC(C)(C)C | C26H33N5O7
reactant | K2CO3 | 0.028 mmol, 3.1 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 0.028 mmol, 3.3 mg | CI | CH3I
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 3-Isopropyl-1-(5-methyl-1H-pyrazol-3-ylamino)-4-oxo-3,4-dihydro-phthalazine-6-carboxylic acid methyl ester | COC(=O)C=1C=C2C(N(N=C(C2=CC1)NC1=NNC(=C1)C)C(C)C)=O | C17H19N5O3
